US04647566
A well stirred mixture of 5 g of ethyl 4,6-dihydroxy-5,6,7,8-tetrahydroquinoline-3-carboxylate and 3.0 g of KHCO3 in 300 mL of CHCl3 is ice-cooled. To the cooled mixture, benzyl chloroformate (3.6 g) is added over a period of 10 minutes maintaining the reaction temperature below 10°. The reaction mixture is vigorously stirred at room temperature overnight, then filtered. The filtrate is washed with H2O, dried (MgSO4), and evaporated to dryness. The dried residue is purified by flash chromatography on a silica gel column to yield ethyl 6-benzyloxycarbonyloxy-4-hydroxy-5,6,7,8-tetrahydroquinoline-3-carboxylate.

reactant | ethyl 4,6-dihydroxy-5,6,7,8-tetrahydroquinoline-3-carboxylate | 5 g | OC1=C(C=NC=2CCC(CC12)O)C(=O)OCC | C12H15NO4
reactant | benzyl chloroformate | 3.6 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | CHCl3 | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | ethyl 6-benzyloxycarbonyloxy-4-hydroxy-5,6,7,8-tetrahydroquinoline-3-carboxylate | C(C1=CC=CC=C1)OC(=O)OC1CC=2C(=C(C=NC2CC1)C(=O)OCC)O | C20H21NO6
